US04336255
Repeating this reaction with 4,6-dibromo-5-aminopyrimidine prepared as is the dichloroaminopyrimidine gives 5-amino-6-bromo-4-guanidinopyrimidine hydrobromide. Other 6-halo congeners are made by variations of these reactions.

reactant | 4,6-dibromo-5-aminopyrimidine | BrC1=NC=NC(=C1N)Br | C4H3Br2N3
reactant | dichloroaminopyrimidine | ClN(Cl)C1=NC=CC=N1 | C4H3Cl2N3
product | 5-amino-6-bromo-4-guanidinopyrimidine hydrobromide | Br.NC=1C(=NC=NC1Br)NC(=N)N | InChI=1S/C5H7BrN6.BrH/c6-3-2(7)4(11-1-10-3)12-5(8)9;/h1H,7H2,(H4,8,9,10,11,12);1H
